US06875765B2
Sodium borohydride (1.80 g, 47.4 mmol) was added portion wise at 0° C. to a solution of 1-naphthyl-2-butanone (4.70 g, 23.7 mmol) in CH3OH (100 mL). The mixture was stirred at 0° C. for 3 h. A solution of 1 N HCl (10 mL) was added, and the solvent was removed in vacuo. Water (50 mL) was added to the residue, and the aqueous was extracted with EtOAc (300 mL). The combined organic extracts were washed with the H2O (100 mL) and brine (50 mL), and the solvent was removed by rotary evaporation. Silica gel flash chromatography (10% EtOAc in hexanes) yielded 4.10 g (86%) of 1-naphthalen-1-ylmethyl-propanol as a colorless oil: 1H-NMR (400 MHz, CDCl3) δ 8.04 (dd, 1 H), 7.85 (dd, 1 H), 7.74 (dd, 1 H), 7.54-7.43 (m, 2 H), 7.41-7.24 (m, 2 H), 3.93-3.87 (m, 1 H), 3.36 (dd, 1 H), 3.05 (dd, 1H), 1.71-1.57 (m, 2 H), 1.45 (br s, 1 H), 1.05 (t, 3 H).

reactant | Sodium borohydride | 47.4 mmol, 1.80 g | [BH4-].[Na+]
reactant | 1-naphthyl-2-butanone | 23.7 mmol, 4.70 g | C1(=CC=CC2=CC=CC=C12)CC(CC)=O | C14H14O
reactant | HCl | 1 N, 10 mL | Cl | ClH
solvent | CH3OH | 100 mL | CO | CH4O
product | 1-naphthalen-1-ylmethyl-propanol | 4.10 g, 86% | C1(=CC=CC2=CC=CC=C12)CC(CC)O | C14H16O
